US07307084B2
27. 2,3-Dimethyl-8-phenyl-6,7,8,9-tetrahydro-3H-imidazo[4,5h]quinoline-5-carboxylic Acid 2-Hydroxyethylamide
A suspension of 1.0 g (2.9 mmol) ethyl 2,3-dimethyl-8-phenyl-6,7,8,9-tetrahydro-3H-imidazo[4,5h]-quinoline-5-carboxylate in 10 ml 2-aminoethanol was heated to 140-150° C. until no starting material was left. The mixture was partitioned between saturated aqueous ammonium chloride and dichloro-methane/methanol 9:1. The organic layer was separated, dried over anhydrous magnesium sulphate and evaporated. The residue was purified by column chromatography on silica gel (toluene/dioxane/methanol=6:3:1). Crystallization from diisopropyl ether yielded 0.55 g (52%) of the title compound as a colourless solid. m.p. 248-251° C.

reactant | ethyl 2,3-dimethyl-8-phenyl-6,7,8,9-tetrahydro-3H-imidazo[4,5h]-quinoline-5-carboxylate | 2.9 mmol, 1.0 g | CC1=NC2=C(C=C(C=3CCC(NC23)C2=CC=CC=C2)C(=O)OCC)N1C | C21H23N3O2
reactant | 2-aminoethanol | 10 ml | NCCO | C2H7NO
product | 2,3-Dimethyl-8-phenyl-6,7,8,9-tetrahydro-3H-imidazo[4,5h]quinoline-5-carboxylic Acid 2-Hydroxyethylamide | 0.55 g, 52% | OCCNC(=O)C=1C=2CCC(NC2C2=C(C1)N(C(=N2)C)C)C2=CC=CC=C2 | C21H24N4O2
